US05272147
3-[4-Ethoxy-3-(1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)phenyl]propanoic acid
A solution of (E)-4-Ethoxy-3-(-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)cinnamic acid (0.426 g, 0.0011 mol) in a mixture of methanol (28.5 ml), ethyl acetate (100 ml) and water (1.5 ml), was stirred with 5% palladium on charcoal catalyst (0.05 g) under a hydrogen atmosphere at room temperature and pressure for 3 hours. The catalyst was removed by filtration and the solvent removed by evaporation under vacuum. Crystallisation of the residue from ethyl acetate-hexane gave the title compound as beige crystals (0.23 g, 54%), m.p. 165°-167° C. Found C,62,24; H,6.17; N,14.09. C20H24N4O4 requires C,62.39; H,6.33; N,14.41%.

reactant | (E)-4-Ethoxy-3-(-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)cinnamic acid | 0.0011 mol, 0.426 g | C(C)OC1=C(C=C(/C=C/C(=O)O)C=C1)C=1NCC2=C(N1)C(=NN2C)CCC | C20H24N4O3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 1.5 ml | O | H2O
solvent | methanol | 28.5 ml | CO | CH4O
catalyst | palladium on charcoal | 0.05 g | [Pd] | Pd
product | 3-[4-Ethoxy-3-(1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)phenyl]propanoic acid | 0.23 g, 54% | C(C)OC1=C(C=C(C=C1)CCC(=O)O)C=1NCC2=C(N1)C(=NN2C)CCC | C20H26N4O3
